* Z:\mnt\design.r\spice\examples\2ndOrderAllpass.asc
G1 0 N002 1 0 {2/R1}
L2 N002 0 {L1} Rpar={R1} Cpar={C1}
G2 0 N003 1 0 {1/R1}
G3 N003 0 N002 0 {1/R1}
R1 N003 0 {R1}
G4 0 2 N003 0 {10*H}
R2 2 0 .1
* .param f0=1k Q=.7
* Most efficient LTSPICE implementation for f0 and Q set by parameters >>>
.param R1=1k
.param C1=Q/(2*pi*f0*R1)
.param L1= 1/(C1*(2*pi*f0)**2)
* Vin
* Vout
.backanno
.end
